US07960561B2
N-(Benzimidazol-2-yl)-4-(trifluoromethyl)aniline
The title compound was prepared from 2-chlorobenzimidazole and 4-(trifluoromethyl)aniline by Procedure A. The product was isolated by filtration and preparative LCMS to give the title compound as the free base (white solid, mp 199-200° C.). MS(ES+) m/z 278 ([M+1]+, 100).

reactant | 2-chlorobenzimidazole | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | 4-(trifluoromethyl)aniline | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
product | N-(Benzimidazol-2-yl)-4-(trifluoromethyl)aniline | N1=C(NC2=C1C=CC=C2)NC2=CC=C(C=C2)C(F)(F)F | C14H10F3N3
